US04294839
2.3 g of Na is dissolved in 80 ml of ethanol; 21.1 g of 6-ethoxy-2-mercaptobenzothiazole is added and the mixture is stirred until solution takes place. 25.7 g of 2-bromo-2-phenylpropionic acid ethyl ester is then added and the mixture is stirred overnight at 20° and worked up in the customary manner to give 2-(6-ethoxybenzothiazol-2-ylthio)-2-phenylpropionic acid ethyl ester, m.p. 92°-94°.

reactant | 6-ethoxy-2-mercaptobenzothiazole | 21.1 g | C(C)OC1=CC2=C(N=C(S2)S)C=C1 | C9H9NOS2
reactant | 2-bromo-2-phenylpropionic acid ethyl ester | 25.7 g | C(C)OC(C(C)(C1=CC=CC=C1)Br)=O | C11H13BrO2
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-(6-ethoxybenzothiazol-2-ylthio)-2-phenylpropionic acid ethyl ester | C(C)OC(C(C)(C1=CC=CC=C1)SC=1SC2=C(N1)C=CC(=C2)OCC)=O | C20H21NO3S2
